US07468457B2
c. Preparation of 1-(5,5,8,8-Tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)prop-2-yn-1-ol
In a similar manner to that of Example 1 f, by reacting 950 mg (3.1 mmol) of 5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthalenecarbaldehyde with 4.5 mL (4.5 mmol) of 1 N ethynylmagnesium bromide solution. A colorless oil is obtained (m=1 g; yield=98%).

reactant | 5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthalenecarbaldehyde | 3.1 mmol, 950 mg | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C=O)C1=CC=C(C=C1)C)C | C22H26O
reactant | ethynylmagnesium bromide | 4.5 mmol, 1 N, 4.5 mL | C(#C)[Mg]Br
product | 1-(5,5,8,8-Tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)prop-2-yn-1-ol | yield=98% | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C(C#C)O)C1=CC=C(C=C1)C)C | C24H28O
